* CMOS inverter chain

.lib "../models/cornerMOSlv.lib" mos_tt

.options noacct
.options nomod
.options nopage
.options klu
.options reltol=1e-4

VDD vdd 0 1.2
VIN in 0 PWL(0 0 10n 0 11n 1.2 100.0n 1.2)

* Inverter subcircuit
.subckt inv in out vdd gnd
X1 out in vdd vdd sg13_lv_pmos w=2.8e-07 l=3.4e-07 rfmode=0
X2 out in gnd gnd sg13_lv_nmos w=3.5e-07 l=3.4e-07 rfmode=0
.ends

* Inverter instances
X1 in n1 vdd 0 inv
X2 n1 n2 vdd 0 inv
X3 n2 n3 vdd 0 inv
X4 n3 n4 vdd 0 inv
X5 n4 n5 vdd 0 inv
X6 n5 n6 vdd 0 inv
X7 n6 n7 vdd 0 inv
X8 n7 n8 vdd 0 inv
X9 n8 n9 vdd 0 inv
X10 n9 out vdd 0 inv

* Load capacitance
CL out 0 1e-14

.control
  * load osdi files
  pre_osdi ../../osdi/psp103.osdi

  tran 1e-10 1e-07 0 1e-10

  * print performance and resource usage
  rusage all

  * write output to file
  set wr_vecnames
  set wr_singlescale
  wrdata check/tb_moslv_inv_chain_N10_tt_generic.sp.out v(in) v(out) i(VDD)
  * clean exit after simulation
  set noaskquit
  quit
.endc

.end